US07094801B2
4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 5-(1H-indol-2-yl)-2,4-dimethoxy-benzaldehyde (Ex-61A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Red solid, mp 210–212° C., 66% yield. 1H-NMR (Aceton-d6) δ 10.53 (br, s, 1H), 8.32 (s, 1H), 8.14–8.21 (m, 5H), 7.89 (d, J=15 Hz, 1H), 7.52 (d, J=8 Hz, 1H), 7.38 (d, J=7 Hz, 1H), 6.97–7.07 (m, 3H), 6.87 (s, 1H), 4.07 (s, 3H), 4.02 (s, 3H), MS m/z=427 ([M]+). HMRS (EI) calcd. for C26H21NO5: 427.1420; found: 427.1435.

reactant | 5-(1H-indol-2-yl)-2,4-dimethoxy-benzaldehyde | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid | 66% yield | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OC)OC | C26H21NO5
